US08476287B2
<Step 1> Synthesis of N-[(3-bromophenyl)Methyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)Aniline
4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.0 g) and 3-bromobenzaldehyde (0.93 g) were dissolved in methanol (15 mL) and to the resultant solution, sodium triacetoxyborohydride (1.2 g) was added, followed by stirring the resultant reaction mixture at room temperature for 2 hours. To the reaction mixture, 3-bromobenzaldehyde (0.17 g) and sodium triacetoxyborohydride (0.6 g) were further added, and the reaction mixture was stirred further for 1.5 hours. To the resultant reaction mixture, a saturated ammonium chloride aqueous solution was added, and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate 30:1 to 10:1) to obtain the subject compound (0.67 g) as a colorless oil.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 3-bromobenzaldehyde | 0.93 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | sodium triacetoxyborohydride | 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-bromobenzaldehyde | 0.17 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | sodium triacetoxyborohydride | 0.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 15 mL | CO | CH4O
product | N-[(3-bromophenyl)Methyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)Aniline | 0.67 g | BrC=1C=C(C=CC1)CNC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H23BBrNO2
